* C:\eee1\Asynth\Anasynser\Amplitude modulator.asc
XU1 0 N001 + - Vout TL081
V1 + 0 5
V2 0 - 5
J1 N004 Gain 0 2N5484
R1 Vout N001 22.1K tol=1 pwr=0.1
R2 N004 Vin 4.99K tol=1 pwr=0.1
R3 NC_01 Gain 0.001Meg tol=1 pwr=0.1
R4 N004 N001 1K tol=1 pwr=0.1
V3 Vin 0 SINE(0 1 300)
V4 0 Gain PWL(0 0 1 3 2 3 3 0)
D3 NC_02 NC_03 IMN10
V5 N002 0 PWL(0 0 5 5)
R5 N003 0 1k
D1 NC_04 NC_05 RFN30TS6D
D2 NC_06 NC_07 MV2201
D4 N002 N003 RFN30TS6D
.model D D
.lib C:\Users\68791\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\Users\68791\Documents\LTspiceXVII\lib\cmp\standard.jft
.tran 3
* 0.3V 400mV
* 0.4V 500mV
* 0.4V 500mV
.lib C:\eee1\Asynth\LTspice\TL081.301
.backanno
.end
