* C:\eee1\Asynth\Anasynser\Draft1.asc
M1 N001 N002 N003 N003 Si1555DL_N
V1 N001 0 PWL(0 0 10 10)
V2 N002 0 PULSE(0 5 0 0.1 0.1 0.1 0.3 50)
R1 P001 0 10k
D1 P001 N003 1SS400CS
.model D D
.lib C:\Users\68791\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\68791\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10s
.backanno
.end
