* C:\eee1\Asynth\Anasynser\Draft2.asc
S1 OUT N001 N002 0 MySwitch
V1 N002 0 PWL(0 -5 5 5 10 5)
V2 N001 0 PWL(0 0 10 10)
R1 OUT 0 1k
.model MySwitch SW(Ron=0.1 Roff=1Meg Vt=3 Vh=-0.01)
.tran 10s
.backanno
.end
