* C:\eee1\Asynth\Anasynser\Sine_wave_oscilator.asc
R1 Vout N001 604 tol=1 pwr=0.1
R2 Vref ground 604 tol=1 pwr=0.1
R3 Vout N002 500 tol=1 pwr=0.1
R4 N002 ground 50 tol=1 pwr=0.1
V1 + 0 10
R5 + ground 10 tol=1 pwr=0.1
R6 ground 0 10 tol=1 pwr=0.1
C2 Vref ground 1µ
C1 N001 Vref 1µ
C3 output Vout 0.1µ V=6.3 Irms=25.7m Rser=3.62516 Lser=0
XU4 N002 Vref + 0 Vout level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.tran 1s
.lib UniversalOpamps2.sub
.backanno
.end
