* C:\eee1\Asynth\Anasynser\Switch_varistor.asc
A1 N002 N002 N002 N002 N002 N002 N003 N002 VARISTOR
V1 N002 0 5
V2 NC_05 NC_06 10
R1 N003 0 1k
.dc V1 0 50 0.1
.backanno
.end
