* C:\eee1\Asynth\Anasynser\Varactor_test.asc
D1 N002 N001 KV1471
V1 N001 N002 2
R1 N003 0 3831
V2 N001 0 SINE(0 5 261)
C1 N001 N003 1µ
R2 N002 N003 50
.model D D
.lib C:\Users\68791\Documents\LTspiceXVII\lib\cmp\standard.dio
;dc V1 0 5 0.1
.tran 10ms
.backanno
.end
